US09387195B2
After a mixture of 10% Pd/C (2.5 g), 3-nitrophthalic acid (75.0 g, 355 mmol) and ethanol (1.5 L) was charged to a 2.5 L Parr hydrogenator under nitrogen, hydrogen was charged to the reaction vessel for up to 55 psi (379 kPa). The mixture was shaken for 13 hours while the hydrogen pressure was maintained at between 50 psi (245 kPa) and 55 psi (379 kPa). Hydrogen was released and the mixture was purged with nitrogen 3 times. The suspension was filtered through a celite bed and rinsed with methanol. The filtrate was concentrated in vacuum to yield a solid. The solid was suspended in ether and isolated by vacuum filtration. The solid was dried in vacuum to a constant weight to afford 54 g (84% yield) of 3-aminopthalic acid as a yellow product. The product in DMSO-d6 was characterized by a 1H NMR spectrum showing the following chemical shifts (δ in ppm): 3.17 (s, 2H), 6.67 (d, 1H), 6.82 (d, 1H), 7.17 (t, 1H), 8-10 (brs, 2H). The product in DMSO-d6 was characterized by a 13C-NMR spectrum showing the following chemical shifts (δ in ppm): 112.00, 115.32, 118.20, 131.28, 135.86, 148.82, 169.15, 170.09.

reactant | 3-nitrophthalic acid | 355 mmol, 75.0 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | ethanol | 1.5 L | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | ether | CCOCC | C4H10O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | 3-aminopthalic acid | 54 g, 84% yield | NC1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H7NO4
